US05998433
a) Synthesis of 1-(2-diethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one
To a solution of 0.347 g (1.167 mmol) of 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one in 20 ml of acetic acid, 0.14 ml (1.4 mmol) of diethylamine and 0.11 g (1.4 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1.5 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one | 1.167 mmol, 0.347 g | O1C=CC=2CN(CCC21)C(CCCCCC2=CC=CC=C2)=O | C19H23NO2
reactant | diethylamine | 1.4 mmol, 0.14 ml | C(C)NCC | C4H11N
reactant | formaldehyde | 1.4 mmol, 0.11 g | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-diethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one | C(C)N(CC)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=CC=C1)=O | C24H34N2O2
